US03947470
A mixture of 3.2 g. (9.2 mmol.) of 5-chloro-3-(4-hydroxybenzoyl)-2-phenylbenzofuran, 3.5 ml. (0.035mol.) of 1,3-dibromopropane and 4.0 g. (0.029 mol.) of potassium carbonate in 100 ml. of acetone is refluxed for 3 hours. After cooling, the reaction mixture is filtered and the filtrate is concentrated to give 5-chloro-3-[4-(3-bromopropoxy)benzoyl]-2-phenylbenzofuran.

reactant | 5-chloro-3-(4-hydroxybenzoyl)-2-phenylbenzofuran | 9.2 mmol | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)C(C2=CC=C(C=C2)O)=O)C1 | C21H13ClO3
reactant | 1,3-dibromopropane | 0.035mol | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 0.029 mol | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-chloro-3-[4-(3-bromopropoxy)benzoyl]-2-phenylbenzofuran | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)C(C2=CC=C(C=C2)OCCCBr)=O)C1 | C24H18BrClO3
